Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ with PMH significant for hemophilia/factor 
VII deficiency, porphyria cutanea tarda, HepC infection s/p 
treatment with PegIF, Ribavirin and telaprevir, diverticulosis 
and h/o colonic adenoma who presents to the ED with BRBPR x1 
day.  
 Mr. ___ was in his usual state of health until 3 days prior 
to admission when he noted BRBPR while in ___. This stopped 
by the next day but he had BRBPR again with loose stools 
starting the morning of admission. He had a colonoscopy as an 
outpatient on ___ with removal of 3 polyps and clip 
placement. He was given factor VIII prior to the colonoscopy as 
well as 2 doses DDAVP following the procedure. He had no 
immediate post-procedure complications and has been doing well 
overall.  
 This morning he noted 2 loose bowel movements with bright red 
blood mixed into the stool. He is not able to quantify the 
amount. He denies any dizziness, lightheadedness, palpitations, 
chest pain, abdominal pain, hematemesis, hematuria or melena. He 
had an appointment with his hematologist Dr. ___ gave 
him an additional 1500 units of factor VIII with no improvement. 
He had an additional 4 loose, bloody bowel movements and was 
referred to the ED for further evaluation.  
 In the ED, initial vital signs were: 98.6, 72, 132/80, 20, 100% 
RA  
 - Labs were notable for: H/H of 12.3/36.4 (baseline Hct 42, was 
36.9 at ___ office today). Factor VIII level was low at 23.  
 - Imaging: none  
 - The patient was given: ___ units of Factor VIII in the ED.  
 - Consults: ___ Hematology  
 Vitals prior to transfer were: 98.4, 70, 116/73, 16, 99% RA  
 Upon arrival to the floor, patient reports that he feels well 
and has no acute complaints. No bloody bowel movements since 
arrival.  
 REVIEW OF SYSTEMS: Per HPI. Denies headache, visual changes, 
pharyngitis, rhinorrhea, nasal congestion, cough, fevers, 
chills, sweats, weight loss, dyspnea, chest pain, abdominal 
pain, nausea, vomiting, diarrhea, constipation, dysuria, rash, 
paresthesias, and weakness.  Otherwise all remaining systems 
reviewed and negative.
 
Past Medical History:
 Factor VIII deficiency  
 Hepatitis C, chronic- s/p successful eradication  
 PORPHYRIN METABOLISM DISORDER  
 Gallbladder polyp  
 Family history of colonic polyps  
 Colon adenoma  
 Diverticulosis of sigmoid colon  
 
Social History:
___
Family History:
Significant for hemophilia in 2 brothers.  
 
Physical Exam:
>> Admission Physical Exam: 
 VITALS: 98.2, 142/75, 71, 17, 99%RA  
 GENERAL: Pleasant, well-appearing, in no apparent distress.  
 HEENT - normocephalic, atraumatic, no conjunctival pallor or 
scleral icterus, PERRLA, EOMI, OP clear.  
 NECK: Supple, no LAD, no thyromegaly, JVP flat.  
 CARDIAC: RRR, normal S1/S2, no murmurs rubs or gallops.  
 PULMONARY: Clear to auscultation bilaterally, without wheezes 
or rhonchi.  
 ABDOMEN: Normal bowel sounds, soft, non-tender, non-distended, 
no organomegaly.  
 EXTREMITIES: Warm, well-perfused, no cyanosis, clubbing or 
edema.  
 SKIN: Without rash or ecchymoses.  
 NEUROLOGIC: A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout.  
 RECTAL: deferred by patient  
.
>> Discharge Physical Exam: 
Vitals: 98.2   ___   79  18  100 RA
General: Alert, oriented, no acute distress. 
HEENT: Sclera anicteric, MMM, oropharynx is clear. 
Neck: Supple, No cervical LAD. 
Lungs: Clear to auscultation bilaterally, no adventitial sounds 
heard. 
CV: RRR, S1, S2. no extra sounds. 
Abdomen: Soft, NT/ND. BS+. There is no tenderness. 
Extremities: Warm, well perfused 2+ peripheral pulses. No ___ 
edema. 
Neuro: CN II-XII intact, grossly normal. 
 
Pertinent Results:
>> ADMISSION LABS: 
___ 08:30PM BLOOD WBC-6.0 RBC-3.84* Hgb-12.3* Hct-36.4* 
MCV-95 MCH-32.0 MCHC-33.8 RDW-12.9 RDWSD-44.1 Plt ___
___ 09:24PM BLOOD ___ PTT-42.0* ___
___ 09:24PM BLOOD FacVIII-23*
___ 08:30PM BLOOD Glucose-114* UreaN-14 Creat-1.1 Na-139 
K-4.4 Cl-103 HCO3-28 AnGap-12
___ 08:30PM BLOOD ALT-10 AST-13 LD(LDH)-141 AlkPhos-32* 
TotBili-0.5
___ 09:28PM BLOOD Lactate-1.2
.
>> DISCHARGE LABS: 
___ 12:41PM BLOOD Hgb-11.4* Hct-34.0*
___ 05:03AM BLOOD WBC-5.1 RBC-3.49* Hgb-11.1* Hct-33.0* 
MCV-95 MCH-31.8 MCHC-33.6 RDW-12.9 RDWSD-44.3 Plt ___
___ 05:03AM BLOOD ___ PTT-35.7 ___
___ 05:03AM BLOOD FacVIII-55
___ 05:03AM BLOOD Glucose-97 UreaN-11 Creat-1.2 Na-142 
K-4.7 Cl-106 HCO3-27 AnGap-14
.
>> STUDIES: 
___: 
Sinus rhythm. Normal ECG. No previous tracing available for 
comparison.

 
Brief Hospital Course:
Mr. ___ is a ___ year old male, with past history of Hemophilia 
Factor VIII deficiency, porphyria cutanea tarda, Hepatitis C s/p 
Rx, now presenting with LGIB s/p polypectomy. 
. 
>> ACTIVE ISSUES: 
# Lower GI Bleed, with acute blood loss anemia, related to 
recent polypectomy/colonoscopy: Patient initially presented s/p 
polypectomy x 3, about 1 week prior, with now several episodes 
of bright red blood per rectum. Given patient's prior history of 
Factor VIII deficiency, patient initially saw his hematologist 
who infused him with Factor VIII, and then presented to the 
___ ED. Upon arrival, hematocrit was found to be lower 
compared to baseline, and received an additional Factor VIII 
infusion. Patient's initial level was < 30, and therefore he 
underwent 2 additional infusions on Hospital D#1, and then an 
additional transfusion prior to discharge. Gastroenterology was 
consulted, and given resolution of his acute bleeding in the 
setting of product administration, repeat colonoscopy and other 
further interventions were deferred. Patient to follow-up for 
repeat lab check, and repeat Factor VIII infusion as an 
outpatient following discharge, and this was coordinated with 
patient's Hematologist Dr. ___. Patient remained 
hemodynamically stable throughout hospital stay, and hematocrit 
was checked at least BID with stability.
. 
# Hemophilia A: As described above, patient underwent 4 Factor 
VIII infusions during hospital stay, with stabiliziation of both 
bleed and hematocrit. Coordination with outpatient hematologist 
was done, with plan for potential repeat transfusion following 
discharge and lab check. 
. 
>> CHRONIC ISSUES: 
# Porphyria Cutanea tarda: No evidence of rash currently, this 
was monitored. 
. 
# Hepatitis C: Patient now s/p Rx with Pegylated IF, Ribavirin, 
and Telaprevir, with prior undetectable viral load. LFTs 
unremarkable during hospital stay. 
. 
>> TRANSITIONAL ISSUES: 
# Lower GI Bleeding: Please continue to monitor patient's Hgb 
upo discharge f/u. Discharge Hgb/Hct : 11.___
# Hemophilia: Patient was given total of 3 Factor VIII infusions 
during hospital stay, with resulting Factor VIII level: 55
#CONTACT: wife ___ ___ 
#FULL CODE
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
None
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
1. Lower Gastrointestinal Bleeding. 

SECONDARY DIAGNOSIS:
1. Hemophilia A

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you during your hospital stay 
at ___. You were hospitalized 
because of bleeding after a colonoscopy, and for this we gave 
you several infusions of recombinant factor due to your 
underlying hemophilia. Fortunately, your bleeding resolved with 
this product administration. Please follow up with your 
hematologist and your gastroenterologist upon discharge from the 
hospital. 

Take Care,
Your ___ Team. 
 
Followup Instructions:
___